US04329347
6-(5-Phenylmercapto-pentoxy)-3,4-dihydro-carbostyril
Prepared analogous to Example 1 from 6-(5-bromo-pentoxy)-3,4-dihydro-carbostyril and thiophenol.

reactant | 6-(5-bromo-pentoxy)-3,4-dihydro-carbostyril | BrCCCCCOC=1C=C2CCC(NC2=CC1)=O | C14H18BrNO2
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
product | 6-(5-Phenylmercapto-pentoxy)-3,4-dihydro-carbostyril | C1(=CC=CC=C1)SCCCCCOC=1C=C2CCC(NC2=CC1)=O | C20H23NO2S
